US05889013
Preparation of 1-[(benzyloxy)methyl]-6-[(3,5-dimethylphenyl)selenenyl]-5-ethyl-2-thiouracil (Compound No. 21)
The titled compound was prepared in the same manner as described in Example 13 by using 1-[(benzyloxy)methyl]-5-ethyl-2-thiouracil and bis(3,5-dimethylphenyl) diselenide in place of 1-(ethoxymethyl)-5-ethyl-2-thiouracil and diphenyl diselenide, respectively.

reactant | 1-[(benzyloxy)methyl]-5-ethyl-2-thiouracil | C(C1=CC=CC=C1)OCN1C(=S)NC(=O)C(=C1)CC | C14H16N2O2S
reactant | bis(3,5-dimethylphenyl) diselenide | CC=1C=C(C=C(C1)C)[Se][Se]C1=CC(=CC(=C1)C)C | C16H18Se2
reactant | diphenyl diselenide | C1(=CC=CC=C1)[Se][Se]C1=CC=CC=C1 | C12H10Se2
product | 1-[(benzyloxy)methyl]-6-[(3,5-dimethylphenyl)selenenyl]-5-ethyl-2-thiouracil | Yield: 43% | C(C1=CC=CC=C1)OCN1C(=S)NC(=O)C(=C1[Se]C1=CC(=CC(=C1)C)C)CC | C22H24N2O2SSe
